US04145432
A solution of diethyl 2-methyl-4-(2-chlorophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (592.5 mg) and p-toluenesulfonic acid (catalytic amount) in ethanol (6 ml) was refluxed for 4 hours. After the resultant solution was concentrated, diethyl ether was added to the residue. The precipitating crystals were collected by filtration to give ethyl 2-methyl-4-(2-chlorophenyl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate (317.5 mg). The crude product was recrystallized from ethyl acetate to give colorless granules (210.3 mg), m.p. 211° to 212° C.

reactant | diethyl 2-methyl-4-(2-chlorophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 592.5 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OCC)CO | C19H22ClNO5
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | ethyl 2-methyl-4-(2-chlorophenyl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | 317.5 mg | CC1=C(C(C2=C(N1)COC2=O)C2=C(C=CC=C2)Cl)C(=O)OCC | C17H16ClNO4
